* C:\Users\ljoire\OneDrive - Groupe SEB\Bureau\ESME_A2S\projet\Simulation\AOP.asc
XU1 LM35 N001 Vcc 0 Vs MAX4353
V1 LM35 0 0.1
V2 Vcc 0 5
R1 Vs N001 56K
R2 0 N001 10K
.tran 200
.lib MAX4353.lib
.backanno
.end
